US07626021B2
25 mg (66 μmol) of 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid and 72 mg (0.14 mmol) of (benzotriazol-1-yloxy)tripyrrolidino-phosphonium hexafluorophosphate were dissolved in a mixture of 200 μL of DMF and 1 mL of acetonitrile. 100 μL (approx. 0.88 mmol, density unknown) of 3-(dimethylamino)pyrrolidine was added and the resulting mixture was irradiated in a Personal Chemistry® Optimizer to 100° C. for 30 min. The resulting mixtures was evaporated and the residue purified by flash chromatography on amine functionalized silica gel (Teledyne ISCO Inc.) using a gradient of ethyl acetate containing 15% of methanol in hexanes. The resulting material was then purified by mass-triggered reverse-phase HPLC to afford 2.9 mg (6 μmol, 10%) of {2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-(3-dimethylamino-pyrrolidin-1-yl)-methanone as a colorless solid. 1H NMR (500 MHz, DMSO-d6) δ 8.78 (d, 1H), 8.24 (s, br., 1H), 7.64 (dd, 1H), 7.55 (d(m), 1H), 7.46 (ddd, 1H), 7.38 (m, br., 1H), 7.21 (d, 1H), 7.09 (ddd, 1H), 5.45 (m, br., 2H), 3.83 (s, 3H), 3.75 (m, br. 1H), 3.64 (m, br. 1H), 3.47 (m, br. 1H), 3.24 (m, br. 1H), 2.18 (s, br. 3H), 2.09 (s, br. 3H), 2.01 (m, br. 1H), 1.80-1.65 (m, 2H), MS: m/z 475.2 (M+H+).

reactant | 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid | 66 μmol, 25 mg | NC1=C(C(=O)O)C=C(C=C1F)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C20H15FN4O3
reactant | (benzotriazol-1-yloxy)tripyrrolidino-phosphonium hexafluorophosphate | 0.14 mmol, 72 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 3-(dimethylamino)pyrrolidine | approx. 0.88 mmol, 100 μL | CN(C1CNCC1)C | C6H14N2
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | {2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-(3-dimethylamino-pyrrolidin-1-yl)-methanone | 6 μmol, 2.9 mg, 10% | NC1=C(C=C(C=C1F)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)C(=O)N2CC(CC2)N(C)C | C26H27FN6O2
